US08071592B2
7-Chloro-6-({[((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-piperidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one
To a solution of 1-{2-[(3S)-3-(Aminomethyl)-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one (0.149 g, 0.472 mmol) in 1:1 (MeOH/CH2Cl2) (25 mL) were added 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c)) (0.100 g, 0.472 mmol) and sodium sulphate (0.100 g) and the resulting solution stirred for 18 hours at ambient temperature. Na(OAc)3BH (0.300 g, 1.42 mmol) was added and the solution stirred an additional 2 h. The reaction mixture was concentrated onto silica gel and chromatographed on a silica gel column [0-100% CHCl3/(90:10:1) CHCl3/MeOH/NH4OH)] to yield a colorless oil and then further purified by HPLC(CH3CN/H2O) to yield the title compound as a white powder (0.041 g, 17%).

reactant | 1-{2-[(3S)-3-(Aminomethyl)-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one | 0.472 mmol, 0.149 g | NC[C@H]1CN(CCC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | C17H24N4O2
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
reactant | sodium sulphate | 0.100 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Na(OAc)3BH | 1.42 mmol, 0.300 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 7-Chloro-6-({[((3S)-1-{2-[7-(methyloxy)-2-oxo-1,5-naphthyridin-1(2H)-yl]ethyl}-3-piperidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 0.041 g, 17% | ClC1=CC=2OCC(NC2N=C1CNC[C@H]1CN(CCC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O)=O | C25H29ClN6O4
